US04847254
5-Amino-2,3-dihydro-N,N-dipropyl-3-benzothiophencarboxamide
30 g of 5-amino-N,N-dipropyl-3-benzothiophencarboxamide were dissolved in 250 ml of dry methanol. 15 g of magnesium turnings were added (eventually activated by addition of a few drops of 1,2-dibromoethane). The mixture was stirred at 30°-35° C. for 4 hours with periodically cooling to keep the temperature down. 2 l of a saturated ammonium chloride solution were added and the product extracted with ethyl acetate. The organic phase was separated, washed with water, dried (MgSO4) and the solvent evaporated. Isopropyl ether was added, and by cooling the title compound precipitated and was filtered off. Yield: 20 g. M.P. 100° C.

reactant | 5-amino-N,N-dipropyl-3-benzothiophencarboxamide | 30 g | NC=1C=CC2=C(C(=CS2)C(=O)N(CCC)CCC)C1 | C15H20N2OS
reactant | magnesium | 15 g | [Mg] | Mg
reactant | ammonium chloride | 2 l | [Cl-].[NH4+]
solvent | methanol | 250 ml | CO | CH4O
catalyst | 1,2-dibromoethane | a few drops | BrCCBr | C2H4Br2
product | 5-Amino-2,3-dihydro-N,N-dipropyl-3-benzothiophencarboxamide | NC=1C=CC2=C(C(CS2)C(=O)N(CCC)CCC)C1 | C15H22N2OS
